US05262426
Step (a): Preparation of 2-(2-pyridyl)-1H-imidazo-(4,5-b)pyridine
A solution of 2,3-diaminopyridine (1.1 g, 10 mmol) and 2-picolinic acid (1.23 g, 10 mmol) in polyphosphoric acid (10 ml) was heated to 160° C. for 4 hours. The hot solution was poured into ice water and the pH adjusted to pH 9 with conc. NH4OH. The resulting precipitate was filtered and air dried. This crude product was recrystallized from EtOH to give 1.1 g (56%) of the title compound, m.p. 139°-142° C. Anal. Calcd for C11H8N4 : C, 67.34; H, 4.11; N, 28.36. Found: C, 66.88; H, 4.17; N, 8.36.

reactant | 2,3-diaminopyridine | 10 mmol, 1.1 g | NC1=NC=CC=C1N | C5H7N3
reactant | 2-picolinic acid | 10 mmol, 1.23 g | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | NH4OH | [NH4+].[OH-]
product | 2-(2-pyridyl)-1H-imidazo-(4,5-b)pyridine | 1.1 g, 56% | N1=C(C=CC=C1)C=1NC=2C(=NC=CC2)N1 | C11H8N4
